US06300334B1
b) 6-[(1H-Benzimidazol-1-yl)methyl]-3-methyl-1-(2-methylpropyl)thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione
Potassium iodide (few crystals), potassium carbonate (140 mg) and benzimidazole (100 mg) were added to a solution of 6-chloromethyl-3-methyl-1-(2-methylpropyl)thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione (170 mg) in dimethylformamide (5 ml). After 2 h the reaction mixture was diluted with ethyl acetate and washed with saturated sodium hydrogen carbonate solution thrice and with brine, then dried over magnesium sulfate and evaporated. Column chromatography of the residue eluting with isohexane:ethyl acetate (1:1 to 0:1) containing 1% Et3N gave the title compound (130 mg).

reactant | Potassium iodide | [I-].[K+]
reactant | potassium carbonate | 140 mg | C([O-])([O-])=O.[K+].[K+]
reactant | benzimidazole | 100 mg | N1=CNC2=C1C=CC=C2 | C7H6N2
reactant | 6-chloromethyl-3-methyl-1-(2-methylpropyl)thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione | 170 mg | ClCC1=CC2=C(N(C(N(C2=O)C)=O)CC(C)C)S1 | C12H15ClN2O2S
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-[(1H-Benzimidazol-1-yl)methyl]-3-methyl-1-(2-methylpropyl)thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione | 130 mg | N1(C=NC2=C1C=CC=C2)CC2=CC1=C(N(C(N(C1=O)C)=O)CC(C)C)S2 | C19H20N4O2S
